US06777435B1
Under a nitrogen atmosphere, sodium hydride (60%; oily; 127 mg) was added to a solution of methyl (E)-4-hydroxyimino-4-phenylbutyrate (661 mg) and 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole (1.00 g) in N,N-dimethylformamide (10 ml) at room temperature and the mixture was stirred for 1 hour. After addition of 1N hydrochloric acid (5 ml), an aqueous solution of sodium bicarbonate was added thereto, followed by extraction with ethyl acetate. The ethyl acetate layer was washed with a saturated aqueous solution of sodium chloride, dried (over MgSO4) and concentrated. The residue was subjected to a silica gel column chromatography and an oily product was obtained from an eluate with ethyl acetate-hexane (1:3, volume ratio). This was dissolved in tetrahydrofuran (10 ml)-methanol (5 ml), a 1N aqueous solution of sodium hydroxide (5 ml) was added thereto and the mixture was stirred at room temperature for 1.5 hours. To the reaction solution was added 1N hydrochloric acid (5.5 ml) and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated aqueous solution of sodium chloride, dried (over MgSO4) and concentrated. The resulting crystals were recrystallized from ethyl acetate-hexane to give colorless crystals of (E)-4-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-4-phenylbutyric acid (907 mg; yield: 60%). The powder X-ray crystal diffraction pattern is shown in FIG. 1. Melting point: 126-127° C. (decomposition).

reactant | sodium hydride | 127 mg | [H-].[Na+]
reactant | methyl (E)-4-hydroxyimino-4-phenylbutyrate | 661 mg | O\N=C(/CCC(=O)OC)\C1=CC=CC=C1 | C11H13NO3
reactant | 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole | 1.00 g | ClCC1=CC=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C18H16ClNO2
reactant | hydrochloric acid | 1N, 5 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 5.5 ml | Cl | ClH
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
product | (E)-4-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-4-phenylbutyric acid | 907 mg, yield: 60% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CO\N=C(/CCC(=O)O)\C2=CC=CC=C2)C=C1 | C28H26N2O5
